US07799757B2
The adenylate cyclase activity induced by each of the tested polypeptides of the invention was also measured in SaOS-2/B 10 cells as described previously (Rodain et al., J. Clin. Invest. (1983) 72,1511; Goldman, et al., Endocrinology (1988) 123, 1468). Conflúnt SaOS-2/B10 cells in 24 wells plates were incubated with 0.5 μCi [3H]adenine (26.9 Ci/mmol, New England Nuclear, Boston, Mass. in fresh medium at 37° C. for 2 hrs. and washed twice with Hank's solution. The cells were treated with 1 mM IBMX (isobutylmethylxanthine, Sigma, St. Louis, Mo.) in fresh medium for 15 min. and a tested PTH analog was added to the medium to incubate for 5 min. The reaction was stopped by the addition of 1.2M TCA followed by sample neutralization with 4N KOH. Cyclic AMP was isolated by the two-column chromatographic method (Salomon, et al., Anal. Biochem. (1974) 58, 541). The radioactivity was counted in a scintillation counter (Liquid scintillation counter 2200CA, PACKARD, Downers Grove, Ill.). The EC50s (half maximal stimulation of adenylate cyclase) were calculated for the tested PTH analogs and are shown in Table 4 below:

reactant | adenylate | C1=NC2=C(C(=N1)N)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | C10H14N5O7P
reactant | [3H]adenine | N1=CNC2=NC=NC2=C1N | C5H5N5
product | Cyclic AMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
